US08258130B2
A solution of [4-(2-methoxy-ethyl)-piperazin-1-yl]-(2-phenyl-pyrimidine-5-carbonyl)-carbamic acid tert-butyl ester (0.21 mmol), NaH (60%, 0.66 mmol) and iodomethane (0.63 mmol) in DMF (8 mL) is stirred under N2 at rt overnight. The reaction mixture is quenched with water, and extracted with EtOAc. The organic layer is separated, dried (Na2SO4), filtered and concentrated in vacuo. The residue is purified by silica gel chromatography eluting with 0-2% methanol in DCM to afford 2-phenyl-pyrimidine-5-carboxylic acid [4-(2-methoxy-ethyl)-piperazin-1-yl]-amide (32 mg, 44%) as a solid. MS: 342 (M+H).

reactant | [4-(2-methoxy-ethyl)-piperazin-1-yl]-(2-phenyl-pyrimidine-5-carbonyl)-carbamic acid tert-butyl ester | 0.21 mmol | C(C)(C)(C)OC(N(C(=O)C=1C=NC(=NC1)C1=CC=CC=C1)N1CCN(CC1)CCOC)=O | C23H31N5O4
reactant | NaH | 0.66 mmol | [H-].[Na+]
reactant | iodomethane | 0.63 mmol | IC | CH3I
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 2-phenyl-pyrimidine-5-carboxylic acid [4-(2-methoxy-ethyl)-piperazin-1-yl]-amide | 32 mg, 44% | COCCN1CCN(CC1)NC(=O)C=1C=NC(=NC1)C1=CC=CC=C1 | C18H23N5O2
